US08420654B2
Heat a solution of N-[1-(2-cyclopropyl-pyrimidin-4-yl)-1-methyl-ethyl]-acetamide (4.5 g, 20.5 mmol) and aqueous 5N HCl (125 mL) to 100° C. for 18 hours. Cool the mixture to room temperature. Extract the reaction with diethyl ether (2×) then make the aqueous layer alkaline with aqueous 5N NaOH. Extract the aqueous layer with diethyl ether (3×), dry the combined organic layers over sodium sulfate, filter, and concentrate under reduced pressure to give 1-(2-cyclopropyl-pyrimidin-4-yl)-1-methyl-ethylamine (1.3 g, 36%) as a dark yellow oil. 1H NMR (400 MHz, CDCl3): δ 8.45 (d, J=5.6 Hz, 1H), 7.12 (d, J=5.6 Hz, 1H), 2.30 (m, 1H), 1.76 (br s, 2H), 1.41 (s, 6H), 1.09 (m, 2H), 1.02 (m, 2H).

reactant | N-[1-(2-cyclopropyl-pyrimidin-4-yl)-1-methyl-ethyl]-acetamide | 20.5 mmol, 4.5 g | C1(CC1)C1=NC=CC(=N1)C(C)(C)NC(C)=O | C12H17N3O
reactant | HCl | 5N, 125 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
product | 1-(2-cyclopropyl-pyrimidin-4-yl)-1-methyl-ethylamine | 1.3 g, 36% | C1(CC1)C1=NC=CC(=N1)C(C)(C)N | C10H15N3
